US06479487B1
1-(6-Ethoxyhexyl)-4-piperidone oxime is prepared from 1-(6-ethoxyhexyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(6-ethoxyhexyl)-4-piperidone | C(C)OCCCCCCN1CCC(CC1)=O | C13H25NO2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(6-Ethoxyhexyl)-4-piperidone oxime | C(C)OCCCCCCN1CCC(CC1)=NO | C13H26N2O2
